* C:\IMR_Projects\IMR\Softcore_SA\Simulation\SPICE\Wien_Bridge_Offset.asc
V1 VCC 0 5
R1 VO_1 N001 22K
R2 N013 N012 {Rw}
R3 0 N012 {Rw}
C1 N012 0 {Cw}
C2 VO_1 N013 {Cw}
R4 N001 N009 10K
V2 VEE 0 -5
V3 N009 0 PULSE(0 .5E-3 0 1E-9 1E-9 1E-4 1E+6 1)
D1 N007 N001 1N4148
D2 N001 N002 1N4148
R5 VO_1 N003 22K
D3 N002 N003 1N4148
D4 N003 N007 1N4148
R6 VO_2 N004 10K
R7 N004 0 10K
R8 N008 N006 10K
R9 N008 N015 10K
XU3 N012 N001 VCC VEE VO_1 AD8606
XU1 N008 N004 VCC 0 VO_2 AD8606
R10 N006 N005 10K
R12 N010 VO_1 10K
XU2 N010 N005 VCC VEE N006 AD8606
R11 N015 N014 10K
XU4 N016 N014 VCC 0 N015 AD8606
R13 N016 0 2.5K
R14 VCC N016 7.5K
C3 VO_2 N011 10µF
R15 N011 0 10K
.model D D
.lib C:\Users\habco\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0 5E-3 4E-3 uic
.param Rw=1K
.param Cw=3.3nF
* V3 is a pulse - necessary to get the ossiclation going.  It would not \nbe necessary in a real circuit, but is necessary in a mathematical model due to \nOp Amp modeled too ideal
* Capacitors should be ceramic of COG, NP0 type for stability
* AD8608 x4 Op Amps\nAD8606 x2 Op Amps\nAD8605 x1 Op Amp
* Double diodes in circuit work to limit out to 2x Vd.  On diode condution R5 in parallel with\nR1 to limit gain.  This type of ossicaltor requires a gain of 3 to work.  Without diode circuit\nin feedback the ouput would swing to the rails and be clipped creating harmonics
* F = 1 / (2*PI*Rw*Cw)
* At R = 11K Frequency = 4.384KHz\nAt R = 1K Frequency = 48.22KHz
.four 48.22k V(VO_2)
* AC Analysis - must have:
* FFT Analysis done after transient analysis - go to transisent graph and View > FFT
.lib ADI.lib
.backanno
.end
